*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXJ350ARA331MJA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXJ350ARA331MJA0G_20deg-C 1 2

C1 4 2 1.64e-04
C2 5 2 7.09e-05
C3 6 2 3.67e-05
R1 3 4 1.21e-02
R2 4 5 5.14e-02
R3 5 6 5.87e-01
L1 1 3 4.50e-09

.ENDS
*$
